US04521607
To a solution of 17 g of 1-benzylamino-5,6-dimethoxyindane hydrochloride in 300 ml of ethanol are added 10 g of potassium carbonate, 3.0 g of potassium iodide and 17 g of ethyl bromoacetate, and the mixture is refluxed for 8 hours. The ethanol is distilled off under reduced pressure, 500 ml of ice-water is added to the residue, and extraction with 500 ml of ethyl acetate is carried out. After the extract is washed with water and dried, the ethyl acetate is distilled off under reduced pressure. The residue is dissolved in 200 ml of ethanol. To the solution are added 5.0 g of sodium hydroxide and 10 ml of water, and the mixture is refluxed for 2 hours. Thereafter, the ethanol is evaporated under reduced pressure, and the residue is dissolved in 300 ml of water. The mixture is neutralized with acetic acid, and subjected to extraction with 300 ml of chloroform. After the extract is washed with water and dried, the chloroform is distilled off. To the residue are added 20 ml of 20% alcoholic hydrochloric acid and 200 ml of ethyl ether, and the mixture is allowed to stand. Collection of the crystalline precipitates by filtration gives 14 g of N-benzyl-N-(5,6-dimethoxy-1-indanyl)glycine hydrochloride as colorless needles. Melting point: 174°-177° C.

reactant | 1-benzylamino-5,6-dimethoxyindane hydrochloride | 17 g | Cl.C(C1=CC=CC=C1)NC1CCC2=CC(=C(C=C12)OC)OC
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.0 g | [I-].[K+]
reactant | ethyl bromoacetate | 17 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | N-benzyl-N-(5,6-dimethoxy-1-indanyl)glycine hydrochloride | 14 g | Cl.C(C1=CC=CC=C1)N(CC(=O)O)C1CCC2=CC(=C(C=C12)OC)OC | InChI=1S/C20H23NO4.ClH/c1-24-18-10-15-8-9-17(16(15)11-19(18)25-2)21(13-20(22)23)12-14-6-4-3-5-7-14;/h3-7,10-11,17H,8-9,12-13H2,1-2H3,(H,22,23);1H
